Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins / Iodine; Iodine Containing
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
___ Aortic Valve Replacement (23mm ___, 
Coronary Artery Bypass Graft x 4 (Left internal mammary artery 
to Left anterior descinding, Saphenous vein graft to Diagonal, 
Saphenous vein graft to Obtuse Marginal, Saphenous vein graft to 
Posterior descending artery)
 
History of Present Illness:
___ y/o male who presented to OSH in ___ with severe shortness 
of breath and intially treated medically. He was then 
transferred to ___ for further care. During that admission he 
was ruled in for a myocardial infarction and underwent cardiac 
cath. Cath revealed severe three vessel coronary disease. Echo 
and also showed severe aortic stenosis. Referred for cardiac 
surgery.
 
Past Medical History:
Aortic Stenosis, Coronary Artery Disease s/p Myocardial 
Infarction ___, Hypertension, Hyperlipidemia, Rheumatic heart 
disease, Chronic renal insufficiency, Stroke x 2, Right Carotid 
stenosis, s/p Left Carotid stent ___
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission:
HR: 72 Resp: 12 B/P: 117/74 Height: ___ Weight: 195 lbs.
Gen: NAD
Skin: Unremarkable
HEENT: Unremarkable
Neck: Full ROM
Chest: Lungs CTA bilaterally
Heart: RRR ___ systolic murmur
Abd: Soft, non-tender, non-distended. +BS x4 quadrants.
Extremities: warm and well perfused.
Varicosities: right lower extremity varicose veins.
Neuro: Grossly non-focal.

At Discharge:
VS:Temp: 97, BP: 152/82, HR: 78 SR, RR: 20 O2 sat: 96% on RA.
Gen: NAD
Skin: Grossly in tact.  Mid sternal incision clean/dry/intact, 
no redness, swelling or drainage. Left leg incision open to air 
with steri strips. No redness, swelling or drainage.
HEENT: Conjunctiva pink, MMM.
Neck: full ROM
Chest: Lungs diminished at bases bilaterally.
Heart: RRR, no murmurs, gallops or rubs.  
Abd: Soft, non-tender, slightly distended.  Last BM ___.
Ext: +3 Lower extremity edema.  
Neuro: Grossly non-focal.
 
Pertinent Results:
___ Echo: Prebypass: 1. No atrial septal defect is seen by 2D 
or color Doppler. 2. There is mild regional left ventricular 
systolic dysfunction with hypokinesia of the apex, mid and 
apical portions of the inferior wall.. Overall left ventricular 
systolic function is mildly depressed (LVEF= 45 %). 3. Right 
ventricular chamber size and free wall motion are normal. 4. 
There are three aortic valve leaflets. There is severe aortic 
valve stenosis (area <0.8cm2). Moderate (2+) aortic 
regurgitation is seen. 5. The mitral valve leaflets are 
moderately thickened. Moderate to severe (3+) mitral 
regurgitation is seen. Post Bypass: 1. Patient is being AV paced 
and receiving an infusion of epinephrine. 2. Biventricular 
systolic function is unchanged. 3. Bioprosthetic valve seen in 
the aortic position. The valve appears well seated and the 
leaflets move well. Trace central aortic insufficiency present. 
4. Moderate mitral regurgitation present. 5. Aorta is intact 
post decannulation.
___ 04:25PM   UREA N-21* CREAT-1.0 CHLORIDE-114* TOTAL 
CO2-23
___ 04:25PM   WBC-14.3* RBC-2.70* HGB-8.2* HCT-23.0* MCV-85 
MCH-30.4 MCHC-35.8* RDW-15.2
___ 04:25PM   PLT COUNT-155
___ 04:25PM   ___ PTT-46.6* ___
___ 08:50AM BLOOD WBC-8.2 RBC-3.56* Hgb-10.6* Hct-31.0* 
MCV-87 MCH-29.7 MCHC-34.2 RDW-15.3 Plt ___
___ 02:39AM BLOOD ___ PTT-36.9* ___
___ 08:50AM BLOOD Plt ___
___ 08:50AM BLOOD Glucose-120* UreaN-31* Creat-1.2 Na-137 
K-4.1 Cl-98 HCO3-28 AnGap-15

___ ___ M  ___  ___ 
 
Radiology Report CHEST (PA & LAT) Study Date of ___ 3:24 ___ 

 
  
___ FA6A ___ SCHED 
CHEST (PA & LAT)   Clip # ___   
Reason: eval for pneumothorax s/p chest tube removal  
 

 
UNDERLYING MEDICAL CONDITION: 
   ___ year old man s/p CABG  
REASON FOR THIS EXAMINATION: 
   eval for pneumothorax s/p chest tube removal  

 
 
Final Report 
HISTORY: Chest tube removal, to evaluate for pneumothorax. 
  
FINDINGS: In comparison with study of ___, the left chest tube 
has been 
removed. There is a small apical pneumothorax that was 
apparently present on 
the previous examination. 
  
Otherwise little change in the appearance of the heart and 
lungs. 
  
___. ___ 
___: FRI ___ 5:31 ___ 
 
  Imaging Lab 
 

 
Brief Hospital Course:
Mr. ___ was a same day admit after undergoing pre-operative 
work-up during prior admission. On day of admission he was 
brought to the operating room where he underwent an aortic valve 
replacement and coronary artery bypass graft x 4. Please see 
operative report for surgical details. In summary he had an AVR 
(#23mm ___ pericardial) and CABG(LIMA-LAD, SVG-OM, 
SVG-Diag, SVG-PDA)with a bypass time of 112min and a cross clamp 
time of 92min. There were no OR complications.  Following 
surgery he was transferred to the CVICU for invasive monitoring 
in stable condition.  He remained hemodynamically stable in the 
immediate post-op period.  Sedation weaned and he was 
successfully extubated.  He was transferred to the step down 
unit on POD#2.  His activity was gradually inceased and 
medications where adjusted.  Of note, he had intermittent atrial 
fibrillation treated with amiodarone and subsequently started on 
coumadin.  On POD#6 he was ready for discharge to Life Care at 
___.

 
Medications on Admission:
Aspirin 325mg qd, Atenolol-Chlorthalidone 100/25mg qd, 
Lisinopril 10mg qd, Allopurinol, Zocor 10mg qd
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
3. Warfarin 1 mg Tablet Sig: as directed Tablet PO DAILY 
(Daily): Target INR 1.5-2.0. ___ dose 5mg.  
4. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for carotid stent.  
6. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q4H (every 
4 hours) as needed.  
7. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.  
8. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO HS (at bedtime) as needed for constipation.  
9. Bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
DAILY (Daily) as needed for constipation.  
10. Ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal 
Sig: One (1) Tab Sust.Rel. Particle/Crystal PO DAILY (Daily): 
hold if K+ is > 4.5.  
12. Amiodarone 200 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day): 400 BID for one week, then 400 daily for one week, then 
200 daily.  
13. Insulin Regular Human 100 unit/mL Solution Sig: sliding 
scale  Injection Q AC and HS.  
14. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day): Hold if HR < 55 and SBP < 100.  
15. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily): Hold for SBP <100.  
16. Lasix 40 mg Tablet Sig: One (1) Tablet PO twice a day: 40mg 
BID for 2 weeks, then 40 mg daily.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Aortic Stenosis s/p Aortic Valve Replacement
Coronary Artery Disease s/p Coronary Artery Bypass Graft x ___
Myocardial Infarction
PMH: Myocardial Infarction ___, Hypertension, Hyperlipidemia, 
Rheumatic heart disease, Chronic renal insufficiency, Stroke x 
2, Right Carotid stenosis, s/p Left Carotid stent ___
 
Discharge Condition:
Good
 
Discharge Instructions:
Please shower daily including washing incisions, no baths or 
swimming 
Monitor wounds for infection - redness, drainage, or increased 
pain 
Report any fever greater than 101 
Report any weight gain of greater than 2 pounds in 24 hours or 5 
pounds in a week 
No creams, lotions, powders, or ointments to incisions 
No driving for approximately one month 
No lifting more than 10 pounds for 10 weeks 
Please call with any questions or concerns ___
 
Followup Instructions:
___